US07829560B2
tert-Butyl{1-[4-({4-[(3-fluoro-5-piperidin-1-ylbenzoyl)amino]-1-naphthyl}oxy)pyrimidin-2-yl]piperidin-4-yl}carbamate (Compound B410).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and piperidin-4-yl-carbamic acid tert-butyl ester according to conditions described in general procedure C. Mp: 211-212° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.18-1.14 (m, 2 H), 1.34 (s, 9H), 1.57-1.61 (m, 8 H), 2.80 (t, J=12.8 Hz, 2 H), 3.21-3.34 (m, 6 H), 4.19 (bs, 1 H), 6.19 (d, J=5.5 Hz, 1 H), 6.76 (d, J=7.6 Hz, 1 H), 6.94-6.98 (m, 1 H), 7.14 (d, J=9.1 Hz, 1 H), 7.40 (d, J=8.0 Hz, 1 H), 7.46 (s, 1 H), 7.54-7.61 (m, 3 H), 7.81-7.83 (m, 1 H), 7.96-7.99 (m, 1 H), 8.24 (d, J=5.5 Hz, 1 H), 10.44 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | piperidin-4-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
product | tert-Butyl{1-[4-({4-[(3-fluoro-5-piperidin-1-ylbenzoyl)amino]-1-naphthyl}oxy)pyrimidin-2-yl]piperidin-4-yl}carbamate | C(C)(C)(C)OC(NC1CCN(CC1)C1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O)=O | C36H41FN6O4
